US05006159
2-Propionyl-3-hydroxy-5-(4-benzyloxyphenyl)cyclohex-2-en-1-one
A mixture of 54 g (0.13 mol) of 2-propionyl-3-hydroxy-5-(4-benzyloxyphenyl)-4-(carboethoxy)cyclohex-2-en-1-one 30 g (0.37 mol)of 50 percent sodium hydroxide in 450 mL of 95 percent ethanol and 100 mL of water was stirred mechanically and heated at about 70° C. for 16 hours. The resulting clear yellow solution was cooled to about 60° C. and treated with 50 mL of concentrated HCl (some material was lost as the ensuing decarboxylation reaction erupted from the reaction vessel). The product precipitated from the solution and was isolated by filtration. Recrystallization from absolute ethanol gave the above named product as a beige crystalline solid in a yield of 24 g (54 percent of theoretical). The product melted at 114°-115° C.: 1H NMR (CDCl3) δ1.17 (t, 3H, --CH3), 2.60-3.48 (m, 7H, ring protons and --CH2CH3), 5.05 (s, 2H, ArCH2O--), 6.83-7.55 (m, 9H, ArH's), 18.1 (s, 1H, enol, H).

reactant | 2-propionyl-3-hydroxy-5-(4-benzyloxyphenyl)-4-(carboethoxy)cyclohex-2-en-1-one | 0.13 mol, 54 g | C(CC)(=O)C=1C(CC(C(C1O)C(=O)OCC)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C25H26O6
reactant | sodium hydroxide | [OH-].[Na+]
reactant | HCl | 50 mL | Cl | ClH
solvent | ethanol | 450 mL | C(C)O | C2H6O
solvent | water | 100 mL | O | H2O
product | 2-Propionyl-3-hydroxy-5-(4-benzyloxyphenyl)cyclohex-2-en-1-one | C(CC)(=O)C=1C(CC(CC1O)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C22H22O4
